US20010027196A1
2-Amino-4-benzo[1,3]dioxol-5-yl-6-(2-methoxy-ethoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-benzo [1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile, 2-methoxyethanol and DBU in DME. EI-MS m/e (%): 314 (M+, 54), 256 ([M—MeOCH═CH2]+, 100), 214 (59).

reactant | 2-amino-4-benzo [1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)S(=O)(=O)C | C13H10N4O4S
reactant | 2-methoxyethanol | COCCO | C3H8O2
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-benzo[1,3]dioxol-5-yl-6-(2-methoxy-ethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)OCCOC | C15H14N4O4
